US08252826B2
1.5 4-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester
To a solution of 2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethanol (100 mg, 290 umol) in THF (2 ml) was added 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester (57 mg, 319 umol; CAS Reg. No. 34137-14-9) and tri-phenylphosphine (91 mg, 348 umol) at ambient temperature under an argon atmosphere. The mixture was cooled to 0° C., di-tert-butyl azodicarboxylate (80 mg, 348 umol) was added and the suspension was stirred for 48 h at ambient temperature. The solvent was removed under reduced pressure to give a solid which was purified by preparative HPLC on reversed phase eluting with a gradient of acetonitrile/water to obtain the title compound (19 mg, 37 umol; 13%) as yellow solid. MS: m/e=507.2 [M+H+].

reactant | 2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethanol | 290 umol, 100 mg | ClC1=CC=C(C=C1)N1N=C2C(=C1C(CO)C1CCCCC1)CCC2 | C20H25ClN2O
reactant | 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)O)C)=O | C10H12O3
reactant | tri-phenylphosphine | 348 umol, 91 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 348 umol, 80 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester | 37 umol, 19 mg, 13% | COC(C1=CC(=C(C(=C1)C)OCC(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)C)=O | C30H35ClN2O3
